US04803211
To a mixture of 0.49 g of 2-[(4-acetyl-3-hydroxy-2propylbenzyl)thio]-5-mercapto-1,3,4-thiadiazole, 0.36 g of p-(bromomethyl)benzoic acid, 0.48 g of anhydrous potassium carbonate and 12 ml of 2-butanone was added a catalytic amount of tetra-n-butylammonium bromide followed by stirring at 60° C. for 45 minutes. An aqueous sodium hydroxide solution and ethyl acetate were added to the reaction mixture to fractionate. The aqueous phase was made acidic with 1N hydrochloric acid and extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, the solvent was distilled off. The thus obtained solid was recrystallized from isopropyl alcohol to give 0.50 g of p-[[5-[(4-acetyl-3-hydroxy-2-propylbenzyl)thio]-1,3,4-thiadiazol-2-yl]thiomethyl]benzoic acid.

reactant | 2-[(4-acetyl-3-hydroxy-2propylbenzyl)thio]-5-mercapto-1,3,4-thiadiazole | 0.49 g | C(C)(=O)C1=C(C(=C(CSC=2SC(=NN2)S)C=C1)CCC)O | C14H16N2O2S3
reactant | p-(bromomethyl)benzoic acid | 0.36 g | BrCC1=CC=C(C(=O)O)C=C1 | C8H7BrO2
reactant | potassium carbonate | 0.48 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
catalyst | tetra-n-butylammonium bromide | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 2-butanone | 12 ml | CC(CC)=O | C4H8O
product | p-[[5-[(4-acetyl-3-hydroxy-2-propylbenzyl)thio]-1,3,4-thiadiazol-2-yl]thiomethyl]benzoic acid | 0.50 g | C(C)(=O)C1=C(C(=C(CSC2=NN=C(S2)SCC2=CC=C(C(=O)O)C=C2)C=C1)CCC)O | C22H22N2O4S3
